US07625903B2
2-{[5-Chloro-2-({3-[2-(4-morpholinyl)ethyl]phenyl}amino)-4-pyrimidinyl]amino}-N-{3-[2-(4-morpholinyl)ethyl]phenyl}benzamide
2-[(2,5-Dichloro-4-pyrimidinyl)amino]-N,N-dimethylbenzamide (250 mg, 0.80 mmol), and 3-[2-(4-morpholinyl)ethyl]aniline (165 mg, 0.80 mmol) were combined in a vessel with 10 mL of isopropanol and 12N HCl (67 μL, 0.80 mmol). The vessel was sealed and heated with stirring at 95° C. for 18 h. The reaction mixture was concentrated to dryness. The crude product was purified by HPLC to afford the title compound as a white solid (25 mg, 6%): Mass (M+H)+=642, 644.

reactant | 2-[(2,5-Dichloro-4-pyrimidinyl)amino]-N,N-dimethylbenzamide | 0.80 mmol, 250 mg | ClC1=NC=C(C(=N1)NC1=C(C(=O)N(C)C)C=CC=C1)Cl | C13H12Cl2N4O
reactant | 3-[2-(4-morpholinyl)ethyl]aniline | 0.80 mmol, 165 mg | N1(CCOCC1)CCC=1C=C(N)C=CC1 | C12H18N2O
reactant | HCl | 0.80 mmol, 12N, 67 μL | Cl | ClH
solvent | isopropanol | 10 mL | C(C)(C)O | C3H8O
product | 2-{[5-Chloro-2-({3-[2-(4-morpholinyl)ethyl]phenyl}amino)-4-pyrimidinyl]amino}-N-{3-[2-(4-morpholinyl)ethyl]phenyl}benzamide | 25 mg, 6% | ClC=1C(=NC(=NC1)NC1=CC(=CC=C1)CCN1CCOCC1)NC1=C(C(=O)NC2=CC(=CC=C2)CCN2CCOCC2)C=CC=C1 | C35H40ClN7O3
